US05965730
To a solution of 2-bromo-4-(6,7-dimethoxyphthalazin-1(2H)-on-4-yl)pyridine (362 mg) in dimethylformamide (2 ml) is added sodium hydride (48 mg, 62.4% in oil,) with ice-cooling under nitrogen atmosphere, and the mixture is stirred at room temperature for 30 minutes. To the mixture is methyl bromoacetate (0.11 ml) under ice-cooling, and the mixture is stirred for 15 minutes. To the mixture is added water, and the mixture is extracted with ethyl acetate. The extract is washed, dried, and concentrated to give 2-bromo-4-(6,7-dimethoxy-2-methoxycarbonylmethylphthalazin-1(2H)-on-4-yl)pyridine (390 mg).

reactant | 2-bromo-4-(6,7-dimethoxyphthalazin-1(2H)-on-4-yl)pyridine | 362 mg | BrC1=NC=CC(=C1)C1=NNC(C2=CC(=C(C=C12)OC)OC)=O | C15H12BrN3O3
reactant | sodium hydride | 48 mg | [H-].[Na+]
reactant | methyl bromoacetate | 0.11 ml | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-bromo-4-(6,7-dimethoxy-2-methoxycarbonylmethylphthalazin-1(2H)-on-4-yl)pyridine | 390 mg | BrC1=NC=CC(=C1)C1=NN(C(C2=CC(=C(C=C12)OC)OC)=O)CC(=O)OC | C18H16BrN3O5
